US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.54 g, 15.95 mmol), 3-(ethoxycarbonylmethoxy) benzaldehyde (4.3 g) and xylenes (20 ml) was heated at 160° C. overnight. The reaction mixture was cooled to room temperature, a solid formed which was collected by filtration and washed with methanol and then ether. The product was recrystallized from acetonitrile to afford 2.48 g of 1-cyclopentyl-3-ethyl-6-[3-(ethoxycarbonylmethoxy)phenyl]pyrazolo[3,4-d]pyrimidin-4-one. An additional 0.3 g of product was also obtained from the recrystallization of the filtrate for a total of 2.78 g.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 15.95 mmol, 3.54 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 3-(ethoxycarbonylmethoxy) benzaldehyde | 4.3 g | C(C)OC(=O)COC=1C=C(C=O)C=CC1 | C11H12O4
product | 1-cyclopentyl-3-ethyl-6-[3-(ethoxycarbonylmethoxy)phenyl]pyrazolo[3,4-d]pyrimidin-4-one | 2.48 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC=C2)OCC(=O)OCC)CC | C22H26N4O4
